US06468998B1
2,2-Bis(2-fluorophenyl)acetyl chloride (0.74 g) and (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine (0.42 g) were reacted under the same conditions as in Example 53 to give (S)-2,2-bis(2-fluorophenyl)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)acetamide (0.29 g), melting point 107-108° C.

reactant | 2,2-Bis(2-fluorophenyl)acetyl chloride | 0.74 g | FC1=C(C=CC=C1)C(C(=O)Cl)C1=C(C=CC=C1)F | C14H9ClF2O
reactant | (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine | 0.42 g | N[C@@H]1CN(CC1)CCC1=CC=C(C=C1)F | C12H17FN2
product | (S)-2,2-bis(2-fluorophenyl)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)acetamide | 0.29 g | FC1=C(C=CC=C1)C(C(=O)N[C@@H]1CN(CC1)CCC1=CC=C(C=C1)F)C1=C(C=CC=C1)F | C26H25F3N2O
